US07439260B2
Step 1: 1,1,1-trifluoro-2-(2-mercapto-1,3-thiazol-5-yl)but-3-en-2-ol
To a solution of vinyl iodide (1.88 g, 12.2 mmol) in Et2O at −78° C. was added t-butyl lithium (14.3 ml, 1.7 M/pentane, 24.3 mmol). The mixture was stirred at −78° C. for 1 h and warmed up to −30° C. for 5 min. The mixture was cooled back to −78° C. and 2,2,2-trifluoro-1-(2-mercapto-1,3-thiazol-5-yl)ethanone (1.18 g, 5.53 mmol) in Et2O was added. The reaction mixture stirred 30 min at −78° C., brought to 0° C. and partitioned between aqueous NH4Cl and EtOAc. The layers were separated and the aqueous phase was extracted with EtOAc. The combined organic layers were washed with brine and dried over anhydrous Na2SO4. The solvent was evaporated and the residue chromatographed on silica gel (toluene/acetone; 90:10) to give the title compound.

reactant | vinyl iodide | 12.2 mmol, 1.88 g | C(=C)I | C2H3I
reactant | t-butyl lithium | 24.3 mmol, 1.7 M, 14.3 ml | C(C)(C)(C)[Li]
reactant | 2,2,2-trifluoro-1-(2-mercapto-1,3-thiazol-5-yl)ethanone | 5.53 mmol, 1.18 g | FC(C(=O)C1=CN=C(S1)S)(F)F | C5H2F3NOS2
solvent | Et2O | CCOCC | C4H10O
product | 1,1,1-trifluoro-2-(2-mercapto-1,3-thiazol-5-yl)but-3-en-2-ol | FC(C(C=C)(O)C1=CN=C(S1)S)(F)F | C7H6F3NOS2
